US07064131B2
(6-{[3-(2-Chloro-6-fluorophenyl)-5-methyl-isoxazole-4carbonyl]-amino}-pyridin-2-yl)-acetic acid ethyl ester
Add Et3N (0.7 ml, 5.06 mmol) to a solution of ethyl 2-(2-Aminopyridin-6-yl)acetate (for preparation see Goto, Jiro; Sakane, Kazuo; Nakai, Yoshiharu; Teraji, Tsutomu; Kamiya, Takashi. J. Antibiot. (1984), 37(5), 532–45) (0.6 g, 3.33 mmol) and 3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl chloride (0.694 g, 2.53 mmol) in dichloromethane (7 ml) and stir overnight. Dilute the reaction with dichloromethane, wash (H2O then brine), dry (MgSO4), filter, and concentrate. Column chromatography (silica gel, hexanes/EtOAc gradient) gives the title compound (0.81 g, 77%). Mass Spectrum (FIA) (m/z) 418.2 [M+1]

reactant | Et3N | 5.06 mmol, 0.7 ml | CCN(CC)CC | C6H15N
reactant | ethyl 2-(2-Aminopyridin-6-yl)acetate | 3.33 mmol, 0.6 g | NC1=NC(=CC=C1)CC(=O)OCC | C9H12N2O2
reactant | 3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl chloride | 2.53 mmol, 0.694 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (6-{[3-(2-Chloro-6-fluorophenyl)-5-methyl-isoxazole-4carbonyl]-amino}-pyridin-2-yl)-acetic acid ethyl ester | 0.81 g, 77% | C(C)OC(CC1=NC(=CC=C1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl)=O | C20H17ClFN3O4
